US05834493
5-methoxy-3-[N-(2-(4-nitro-phenyl)-ethyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole
Sodium borohydride in pellets (0.8 g; 0.0211 mol) was added to a cold (~0° C.) stirring mixture of compound of Description 7 [3-[(5-methoxy-1H-indol-3-yl)-methyl]-1-(2-(4-nitro-phenyl)-ethyl)-pyridinium bromide] (1.75 g; 0.0038 mol) in methanol (50 ml). The reaction mixture was stirred at 0° C. for 2 hours. The reaction was then quenched with a saturated solution of aqueous sodium carbonate and the solvent (methanol) was evaporated under vacuum. The product was extracted with methylene chloride. The organic extract was dried (MgSO4) and evaporated under vacuum giving the desired compound (1.38 g). The compound was used as such without further purification.

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 3-[(5-methoxy-1H-indol-3-yl)-methyl]-1-(2-(4-nitro-phenyl)-ethyl)-pyridinium bromide | [Br-].COC=1C=C2C(=CNC2=CC1)CC=1C=[N+](C=CC1)CCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | methanol | 50 ml | CO | CH4O
product | 5-methoxy-3-[N-(2-(4-nitro-phenyl)-ethyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole | 1.38 g | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C23H25N3O3
